US06057337
Sodium hydride is added to tetrahydrofuran solution of octadecyl 2-(2-hydroxyethyl)piperidinecarboxylate and the mixture is reacted at 0° C. Then, 1-bromo-4-chlorobutane is added to the reaction mixture and reacted to obtain octadecyl 2-(4-chlorobutoxyethyl)piperidinecarboxylate.

reactant | Sodium hydride | [H-].[Na+]
reactant | octadecyl 2-(2-hydroxyethyl)piperidinecarboxylate | OCCC1N(CCCC1)C(=O)OCCCCCCCCCCCCCCCCCC | C26H51NO3
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | octadecyl 2-(4-chlorobutoxyethyl)piperidinecarboxylate | ClCCCCOCCC1N(CCCC1)C(=O)OCCCCCCCCCCCCCCCCCC | C30H58ClNO3
